US05607956
4-Methyl-2-trimethylsilylthiazole
n-Butyllithium (2.5M solution in hexane, 1.1 equivalents) was added dropwise to a solution of 4-methylthiazole (1.0 equivalent) in dry diethyl ether at -70° C. under an atmosphere of dry nitrogen. After 30 minutes, trimethylsilylchloride (1.0 equivalent) was added dropwise. The mixture was allowed to warm to room temperature and was then quenched by the addition of saturated aqueous sodium hydrogen carbonate. Work-up in the normal fashion and vacuum distillation then gave the title compound. B.p. 42° C. at 1 mm Hg.

reactant | n-Butyllithium | 2.5M, 1.1 equivalents | C(CCC)[Li]
reactant | 4-methylthiazole | 1.0 equivalent | CC=1N=CSC1 | C4H5NS
reactant | trimethylsilylchloride | 1.0 equivalent | C[Si](C)(C)Cl | C3H9ClSi
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-Methyl-2-trimethylsilylthiazole | CC=1N=C(SC1)[Si](C)(C)C | C7H13NSSi
